US07163947B2
A solution of N-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (6.63 g, 17.0 mmol) in 90 mL of CHCl3 was treated with MPCBA (6.29 g, 25.5 mmol, 70%). After 3 h, HPLC and LC/MS indicated complete conversion to the intermediate 5-N-oxide. The reaction mixture was then treated with concentrated ammonium hydroxide solution (30 mL, 30%). The biphasic reaction mixture was stirred vigorously while p-toluenesulfonyl chloride (3.40 g, 17.9 mmol) was added. After 45 min, LC/MS indicated complete conversion to the 4-amine. The reaction mixture was diluted with 30 mL of water and 45 mL of CHCl3 and separated. The organic portion was washed with 10% Na2CO3 solution (50 mL) and water (50 mL). The combined aqueous portions were then back-extracted with CHCl3 (25 mL). The combined organic portions were washed with brine (50 mL), dried over Na2SO4, filtered and concentrated to yield a tan solid. The solid was purified by chromatography (SiO2, 96:4 CHCl3:MeOH) to give 5.90 g of 7-benzyloxy-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine as a light tan solid.

reactant | N-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 17.0 mmol, 6.63 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3NC(C)C)COCC | C23H26N4O2
reactant | ammonium hydroxide | 30 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 17.9 mmol, 3.40 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CHCl3 | 90 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 30 mL | O | H2O
solvent | CHCl3 | 45 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-benzyloxy-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 5.90 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)COCC | C23H27N5O2
